US04260816
Ethyl p-{[2-(4-bromo-1-naphthyloxy)ethyl]amino}benzoate
The solution of 7.0 g. of 2-(4-bromo-1-naphthyloxy)ethyl bromide and 7.9 g. of ethyl 4-aminobenzoate in 50 ml. of hexamethylphosphoramide is heated for 18 hours, then cooled and diluted with 50 ml. of water. The precipitate is collected and crystallized from 200 ml. of methylcyclohexane and then from 100 ml. of ethanol, m.p. 126°-127° C.

reactant | 2-(4-bromo-1-naphthyloxy)ethyl bromide | BrC1=CC=C(C2=CC=CC=C12)OCCBr | C12H10Br2O
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl p-{[2-(4-bromo-1-naphthyloxy)ethyl]amino}benzoate | BrC1=CC=C(C2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H20BrNO3
